Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left-sided weakness and numbness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman RH woman, pmh of HTN, presents with left sided
weakness. History is obtained via in-person ___ interpreter. 


She was in her usual state of health yesterday evening.  She 
went
to bed.  She woke up at 3 AM, to go to the bathroom.  When she
stood up she felt dizzy, which she described as her "head was
moving".  She denies room spinning sensation or lightheadedness. 

She felt that her head was in a fog.  When she walked towards 
the
bathroom she felt that she was walking more towards the left 
side
and that she had difficulty moving her left upper and lower
extremity as they felt "heavy".  She felt "the nerves were numb
in her left side.  She also noted that her "lips are moving to
the left side".  She noticed the numbness and weakness while
walking but there is no clear onset time.

She went to bed and began to pray and then fell asleep.  She 
woke
up at 7 AM and felt the stadium.  She did not want to go to the
hospital at that point "because I do not like doctors".  She
spoke to her daughter over the phone.  Her daughter noticed that
her that she had difficulty with her speech such that her speech
was slurred.  The patient notes that she knew what she wanted to
say but she had difficulty forming the words and she felt that
she had difficulty moving her tongue.

She was then brought to the emergency room.

Currently she feels that her speech is back to baseline and that
her numbness is improved.  She notes that the symptoms are worse
when when she is walking.  She has never had a prior episode 
like
this.
 
 
ROS: On neurologic review of systems, the patient denies
headache, or confusion. Denies difficulty with comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness, numbness. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. 

On general review of systems, the patient endorses nausea while
on way to hospital. denies fevers, rigors, night sweats, or
noticeable weight loss. Denies chest pain, palpitations, 
dyspnea,
or cough. Denies nausea, vomiting, diarrhea, constipation, or
abdominal pain.  No recent change in bowel or bladder habits. 
Denies dysuria or hematuria. Denies myalgias, arthralgias, or
rash.
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Mother passed of a stroke. Unknown what her
father passed of. Denies MI.
 
Physical Exam:
VS: T 97.5, HR 76, BP 119/81, RR 20, O2 97% RA
General: no acute distress, appears stated age 
Lungs: breathing comfortably in room air
CV: well-perfused
Abd: non-distended
Extremities: non-edematous

Mental status: Awake, alert. Speech is fluent, naming intact, no 
dysarthria.
Cranial nerves: EOMI, visual fields full; subtle L NLFF, 
symmetric activation of facial muscles, no tongue deviation, 
palate elevation symmetric. 
Motor: No pronator drift. RUE and LUE full strength throughout. 
LUE ___ throughout; LLE with IP 5-, hamstring 4, gastroc 5, TA 
5.
Reflexes: Right Bi, BR, patellae, Achilles all 3; Left Bi, BR, 
patella, Achilles all 2+. Toes down bilaterally.
Gait: Normal with hesitant stride, normal arm swing.
 
Pertinent Results:
LABS:

___ 11:34AM   %HbA1c-5.6 eAG-114
___ 11:11AM   ___ PTT-25.3 ___
___ 11:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00AM URINE  RBC-3* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:36AM   K+-5.1
___ 10:20AM   GLUCOSE-196* UREA N-13 CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-22 ANION GAP-17
___ 10:20AM   TOT BILI-0.4
___ 10:20AM   cTropnT-<0.01
___ 10:20AM   CALCIUM-9.9 PHOSPHATE-2.8 MAGNESIUM-2.2
___ 10:20AM   ___
___ 10:20AM   TSH-3.1
___ 10:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:20AM   WBC-7.1 RBC-4.23 HGB-12.6 HCT-36.5 MCV-86 
MCH-29.8 MCHC-34.5 RDW-12.7 RDWSD-39.8
___ 10:20AM   NEUTS-66.3 ___ MONOS-5.2 EOS-0.1* 
BASOS-0.7 IM ___ AbsNeut-4.73 AbsLymp-1.95 AbsMono-0.37 
AbsEos-0.01* AbsBaso-0.05

IMAGING:
CTA Head and Neck ___:
IMPRESSION:
1. No acute intracranial abnormality on unenhanced head CT.
2. Diffuse intracranial vascular disease most severe in the 
bilateral anterior
cerebral arteries as described above.
3. Patent neck vessels.

MRI Brain w/o contrast ___:
IMPRESSION:
 1. Acute/early subacute infarct right corona radiata, basal 
ganglia.
2. Chronic lacunar infarcts.

Echocardiogram ___:
IMPRESSION: Patent foramen ovale. Normal global and regional 
biventricular systolic function. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with hypertension and 
hyperlipidemia who is admitted to the Neurology stroke service 
with acute left-sided weakness and numbness secondary to an 
acute ischemic strokes in the R corona radiata. Her stroke was 
most likely secondary to a thromboembolic event given her risk 
factors of hypertension and hyperlipidemia (LDL 170). Her 
deficits had completely resolved by the time of discharge and 
there was no noteable decrease in strength or sensation on the L 
side. She is being discharged with a prescription for outpatient 
physical therapy as needed. Additionally, echocardiogram done 
prior to discharge showed a PFO. We will follow up on this with 
her at her follow-up appointment with stroke clinic and whether 
this is something that requires further exploration or 
intervention.

Her stroke risk factors include the following: 

1) Hypertension
2) Moderate intracranial atherosclerosis - intracranial vascular 
disease most severe in the bilateral anterior cerebral arteries.
3) Hyperlipidemia: uncontrolled (newly diagnosed) with LDL 170
4) Patent foramen ovale 

Transitional issues:
- She should have an echocardiogram to rule out cardioembolic 
origin of stroke. We have ordered this to be done on an 
outpatient basis. 
- Hyperlipidemia - started on Atorvastatin 40mg daily. Please 
follow up her cholesterol levels after discharge. 
- Hypertension - her home Nifedipine was held on admission and 
resumed prior to discharge without any changes.
- She was also started on daily Aspirin 81mg prior to discharge, 
which she should continue.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 170) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - Atorvastatin 
40mg () No [if LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
x() Yes - () No  
 9. Discharged on statin therapy? (x) Yes - Atorvastatin 40gm () 
No [if LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
1. NIFEdipine (Extended Release) 30 mg PO DAILY Hypertension 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  NIFEdipine (Extended Release) 30 mg PO DAILY Hypertension  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute R-sided ischemic stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

 You were hospitalized due to symptoms of weakness and numbness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

1) Hypertension. You should follow up with your primary care 
physician and continue to take medication to this under good 
control.
2) High cholesterol: You have been started on a medication, 
Atorvastatin, to help with this. Your PCP can follow up blood 
levels as needed. 
3) Patent foramen ovale: this is a very small hole between the 
chambers of your heart that can allow passage of blood between 
the two sides.  Dr. ___ will follow up on this with you when 
you see him in Neurology Stroke clinic in ___.

 We are changing your medications as follows:  
 
- Start taking Aspirin 81mg by mouth daily
- Start taking Atorvastatin 40mg by mouth daily.

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

***Regarding your new medications***
In order to continue receiving free care medication, call 
financial counseling at ___ at least 1 day before you 
run out of medication.

 Sincerely,  
 Your ___ Neurology Team
 
Followup Instructions:
___